US07790747B2
Following general procedure A: to a solution of [(R)-3-(4-oxo-piperidin-1-yl)-butyl]-carbamic acid tert-butyl ester (0.25 g, 0.94 mmol) in CH2Cl2 (20 ml) was added 3-chloro-benzylamine (0.14 ml, 1.13 mmol) and the mixture was stirred for 5 min. NaBH(OAc)3 (0.30 g, 1.41 mmol) and acetic acid (10 drops) were added and the mixture was stirred at rt under N2 overnight. The crude product was purified by flash chromatography (CH2Cl2, 5% MeOH, 1% NH4OH) to afford {(R)-3-[4-(3-chloro-benzylamino)-piperidin-1-yl]-butyl}-carbamic acid tert-butyl ester as a yellow oil (305 mg, 82%). 1H NMR (CDCl3) δ 0.92-0.94 (d, 3H, J=6 Hz), 1.27-1.39 (m, 2H), 1.44 (s, 9H), 1.60-1.72 (m, 2H), 1.82-1.97 (m, 2H), 2.02-2.14 (m, 1H), 2.32-2.51 (m, 2H), 2.68-2.87 (m, 3H), 3.05-3.11 (m, 1H), 3.23-3.37 (m, 1H), 3.79 (s, 2H), 4.40 (s, 1H), 6.01 (br s, 1H), 7.16-7.25 (m, 3H), 7.33 (s, 1H).

reactant | [(R)-3-(4-oxo-piperidin-1-yl)-butyl]-carbamic acid tert-butyl ester | 0.94 mmol, 0.25 g | C(C)(C)(C)OC(NCC[C@@H](C)N1CCC(CC1)=O)=O | C14H26N2O3
reactant | 3-chloro-benzylamine | 1.13 mmol, 0.14 ml | ClC=1C=C(CN)C=CC1 | C7H8ClN
reactant | NaBH(OAc)3 | 1.41 mmol, 0.30 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | 10 drops | C(C)(=O)O | C2H4O2
product | {(R)-3-[4-(3-chloro-benzylamino)-piperidin-1-yl]-butyl}-carbamic acid tert-butyl ester | 305 mg, 82% | C(C)(C)(C)OC(NCC[C@@H](C)N1CCC(CC1)NCC1=CC(=CC=C1)Cl)=O | C21H34ClN3O2
